data/oMe_Silver.jsonl
{"reaction_id": "NR-313_1-F_2-N(=O)=O_3-C(C)C_4-C(C)(C)C_5-N(=O)=O","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c(N(=O)=O)c1I"],"products_smiles": ["c1(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c(N(=O)=O)c1c2c(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c2(N(=O)=O)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c(N(=O)=O)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c(N(=O)=O)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c(N(=O)=O)c1[Cu](I)c2c(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c2(N(=O)=O)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c(N(=O)=O)c1c2c(F)c(N(=O)=O)c(C(C)C)c(C(C)(C)C)c2(N(=O)=O)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
{"reaction_id": "NR-106_1-c1ccc(F)cc1_2-C(C)(C)C_3-C(C)(C)C_4-c1cnccc1","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(c1ccc(F)cc1)(C(C)(C)C)[N+](=O)[O-]","C(C(C)(C)C)(c1cnccc1)=O","[OH-]"],"products_smiles": ["C(C(C)(C)C)(c1cnccc1)(O)C(c1ccc(F)cc1)(C(C)(C)C)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(C(C)(C)C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)(c1cnccc1)([O-])C(c1ccc(F)cc1)(C(C)(C)C)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(c1cnccc1)(O)C(c1ccc(F)cc1)(C(C)(C)C)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
